US03947465
To a solution of 2-oxazolidinone (4.68 g; 0.05 mol) in 1,2-dichlorethane (60 ml), there is added benzoyl chloride (5.6 ml, 0.05 mol) and triethylamine (7.0 ml; 0.05 mol), with stirring at ambient temperature for 30 mins. The solution is then concentrated at reduced pressure and ethyl acetate is added, thereafter it is filtered to remove the base hydrochloride; the filtrate is partly evaporated and diluted with n-heptane and the precipitated solid is removed by filtration. After washing with water and drying, it gives 3-benzoyl-2-oxazolidinone (5.94 g; 90%). From absolute ethanol it crystallizes in nacar scales with m.p. = 166°-170°C. A portion of the substance in ethanol, with a catalytic amount of sodium ethoxide at room temperature immediately gives ethyl benzoate and, with aniline, benzanilide.

reactant | 2-oxazolidinone | 0.05 mol, 4.68 g | O1C(NCC1)=O | C3H5NO2
reactant | benzoyl chloride | 0.05 mol, 5.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.05 mol, 7.0 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichlorethane | 60 ml | ClCCCl | C2H4Cl2
product | 3-benzoyl-2-oxazolidinone | 5.94 g, 90% | C(C1=CC=CC=C1)(=O)N1C(OCC1)=O | C10H9NO3
